US05571821
4-[N '-(Ethoxycarbonylmethyl)ureido]-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide
4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide (545 mg, 2.0 mmol) was dissolved in dry dimethylformamide (10 ml). Ethyl isocyanatoacetate (463 ml, 4.0 mmol) was added. The reaction was stirred at room temperature for 3 h and then heated at 80° C. for an additional 8 h. Dimethylformamide was removed under reduced pressure and the residue was recrystallized from acetonitrile/water to give 807 mg (90% yield) brownish solid, m.p. 115°-125° C.

reactant | 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 2.0 mmol, 545 mg | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C11H13N3O3S
reactant | Ethyl isocyanatoacetate | 4.0 mmol, 463 ml | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[N '-(Ethoxycarbonylmethyl)ureido]-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 807 mg, 90% yield | C(C)OC(=O)CNC(NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C)=O | C16H20N4O6S
